US09102688B2
Quinoline-3-sulfonic acid quinolin-8-ylamide (Example Compound 88)
In a similar fashion using route 14 general procedure 27, 8-aminoquinoline (57 mg, 0.40 mmol), quinoline-3-sulfonyl chloride (10 mg, 0.44 mmol) and DMAP (cat.) gave the title compound (28 mg, 21%).

reactant | 8-aminoquinoline | 0.40 mmol, 57 mg | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | quinoline-3-sulfonyl chloride | 0.44 mmol, 10 mg | N1=CC(=CC2=CC=CC=C12)S(=O)(=O)Cl | C9H6ClNO2S
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | Quinoline-3-sulfonic acid quinolin-8-ylamide | 28 mg, 21% | N1=CC=CC2=CC=CC(=C12)NS(=O)(=O)C=1C=NC2=CC=CC=C2C1 | C18H13N3O2S
